US09056858B2
Synthesis of [1-(5-iodo-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester (5)
To a solution of (1-furan-2-yl-cyclopropyl)-carbamic acid tert-butyl ester (4.30 g, 19.3 mmol) (prepared according to the procedure described in patent application WO 2009/070485 A1) in anhydrous DMF (77 mL) at room temperature is added solid N-iodosuccinimide (4.77 g, 21.2 mmol) in one portion. After 2.5 hours, the reaction is diluted with a saturated aqueous solution of Na2S2O3 (75 mL), water (75 mL), and ethyl ether (100 mL). Phases are separated and the aqueous layer is extracted with ethyl ether (2×100 mL). The combined organic layers are dried over Na2SO4 and concentrated. The resultant solid is triturated with hexanes to afford the title compound as a powder (ES+ m/z 350.5).

reactant | (1-furan-2-yl-cyclopropyl)-carbamic acid tert-butyl ester | 19.3 mmol, 4.30 g | C(C)(C)(C)OC(NC1(CC1)C=1OC=CC1)=O | C12H17NO3
reactant | N-iodosuccinimide | 21.2 mmol, 4.77 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 77 mL | CN(C)C=O | C3H7NO
solvent | Na2S2O3 | 75 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | water | 75 mL | O | H2O
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | [1-(5-iodo-furan-2-yl)-cyclopropyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CC1)C=1OC(=CC1)I)=O | C12H16INO3
